US04724236
(e) 5,11-Dihydro-11-[1-oxo-2-methyl-4-pentynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
At 0° to 10° C., with stirring, 416 ml (0.65 mol) of an n-butyl-lithium solution in n-hexane are added dropwise to a suspension of 63 g (0.3 mol) of 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one in 1500 ml of absolute tetrahydrofuran. THe mixture is stirred for a further hour at ambient temperature, then cooled to 5° to 10° C. and this temperature 46.8 g (0.36 mol) of 2-methyl-4-pentynoic acid chloride (not purified) dissolved in 100 ml of absolute tetrahydrofuran are added dropwise to the reaction solution. The mixture is stirred for a further 3 hours at ambient temperature, then added to 2000 ml of a saturated saline solution and diluted with about 2000 ml of ethyl acetate. The organic phase is separated off, extracted twice with 500 ml of saturated saline solution, dried over magnesium sulphate and evaporated to dryness in vacuo. The desired compound is obtained as a brownish-yellow product which is used without further purification in the next step.

reactant | n-butyl-lithium | 0.65 mol, 416 ml | C(CCC)[Li]
reactant | 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.3 mol, 63 g | N1=CC=CC2=C1NC1=C(C(N2)=O)C=CC=C1 | C12H9N3O
reactant | 2-methyl-4-pentynoic acid chloride | 0.36 mol, 46.8 g | CC(C(=O)Cl)CC#C | C6H7ClO
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 1500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | about 2000 ml | C(C)(=O)OCC | C4H8O2
product | 5,11-Dihydro-11-[1-oxo-2-methyl-4-pentynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | O=C(C(CC#C)C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C18H15N3O2
